### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/Shapes/Pullback/Categorical): 2-functoriality of `CatCommSqOver`

### PR DESCRIPTION
**Pull request by robin-carlier**
This PR uses the notion of categorical cospan transforms from #26412 and its bicategory-like notations from #26447 to provide API for 2-functoriality of the construction `CatCommSqOver F G X`. We show that `ψ : CatCospanTransform F G F' G'` defines a functor `CatCommSqOver F G X ⥤ CatCommSqOver F' G' X`, and that a functor `U : X ⥤ Y` induces a functor `CatCommSqOver F G Y ⥤ CatCommSqOver F G X` via precomposition. We give the battery of lemma that shows that these constructions are components of a `Cat`-valued "bipseudofunctor", although we cannot state it this way to keep things unbundled and universe polymorphic.

---

- [x] depends on: #26447 

I apologize in advance, for this one is very boring. As usual, the higher order lemmas are found by aesop_cat and are not marked simp, but I still want to state these explicitly so that in case automation goes wrong, "manual formal bicategory manipulations" remain an option.

A design choice was made here. Instead of stating this kind of functoriality for the categorical pullback itself, I chose to state everything in terms of `CatCommSqOver`, i.e in terms of the pseudofunctorial construction corepresented by the categorical pullback. The rationale here is that while we could have done everything only at the level of the categorical pullback itself, I believe this design will allow for easier manipulations of categorical pullback *squares*.
Actual bifunctoriality of the categorical pullback (and thus equivalence invariance, which is the key point of the notion compared to the strict pullback) will be in future PRs.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by robin-carlier** [comment]
Modified: now `transform` and `precompose` are both functors to avoid extra definitions `transform₂` and `precompose₂` to avoid having to duplicate code about things like `[isIso α] → IsIso (transform₂ _ α)`.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean [hunk 1]
```diff
@@ -363,6 +365,367 @@ end functorEquiv
...
+  map {ψ ψ'} η :=
+    { app S :=
+      { fst := { app y := η.left.app (S.fst.obj y) }
+        snd := { app y := η.right.app (S.snd.obj y) }
+        w := by
+          ext t
+          dsimp
+          simp only [Category.comp_id, Category.id_comp, Category.assoc,
+            CatCospanTransformMorphism.right_coherence_app, Functor.comp_obj,
+            NatTrans.naturality_assoc]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean [hunk 2]
```diff
@@ -363,6 +365,367 @@ end functorEquiv
...
 end
 
+section Bifunctoriality
+
+namespace CatCommSqOver
+open Functor
+
+section transform
+
+variable {A' : Type u₄} {B' : Type u₅} {C' : Type u₆}
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean]: I would suggest starting already here with `A₁`, etc., the triple primes below are a bit too much in my opinion, a subscript 3 would look nicer.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean [hunk 3]
```diff
@@ -54,7 +55,8 @@ equivalent to `CatCommSqOver F G X`.
 
 -/
 
-universe v₁ v₂ v₃ v₄ u₁ u₂ u₃ u₄
+universe v₁ v₂ v₃ v₄ v₅ v₆ v₇ v₈ v₉ v₁₀ v₁₁ v₁₂ v₁₃
+universe u₁ u₂ u₃ u₄ u₅ u₆ u₇ u₈ u₉ u₁₀ u₁₁ u₁₂ u₁₃
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean:59]: In my opinion, all these explicit universe levels make the code look a bit cluttered. Does `Type*` and `Category` not give sufficient generality?

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean [hunk 4]
```diff
@@ -363,6 +365,367 @@ end functorEquiv
...
+      map {x y} f :=
+        { fst := whiskerRight f.fst ψ.left
+          snd := whiskerRight f.snd ψ.right
+          w := by
+            ext x
+            dsimp
+            simp only [Category.comp_id, Category.id_comp,
+              CatCommSq.iso_inv_naturality_assoc, Category.assoc,
+              NatIso.cancel_natIso_inv_left, Functor.comp_obj]
+            simp [← Functor.map_comp_assoc] } }
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean:401]:
```suggestion
            ext
            simp [← Functor.map_comp_assoc] } }
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean [hunk 5]
```diff
@@ -363,6 +365,367 @@ end functorEquiv
...
+    (transform X).map (α ▷ φ) =
+    (transformObjComp X ψ φ).hom ≫
+      whiskerRight (transform X|>.map α) (transform X|>.obj φ) ≫
+      (transformObjComp X ψ' φ).inv := by
+  cat_disch
+
+lemma transform_map_associator
+    {A''' : Type u₁₀} {B''' : Type u₁₁} {C''' : Type u₁₂}
+    [Category.{v₁₀} A'''] [Category.{v₁₁} B'''] [Category.{v₁₂} C''']
+    {F''' : A''' ⥤ B'''} {G''' : C''' ⥤ B'''}
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean]:
```suggestion
    {A₃ : Type u₁₀} {B₃ : Type u₁₁} {C₃ : Type u₁₂}
    [Category.{v₁₀} A₃] [Category.{v₁₁} B₃] [Category.{v₁₂} C₃]
    {F₃ : A₃ ⥤ B₃} {G₃ : C₃ ⥤ B₃}
```

Similarly above

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean (hunk 3 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean:59]: No. The pattern `Type*` + `[Category]` introduces universe-level metavariables that have terrible performances (see [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60grind.20ext.60.20and.20universe-level.20metavariable/with/529717580)).

I remember this being a cause for various timeouts.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean (hunk 2 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/Categorical/Basic.lean]: Yeah, that was a bad call to go with primes there.

**Comment by dagurtomas** [comment]
Thanks!

maintainer merge

**Comment by joelriou** [comment]
Thanks!

bors merge
